US07381719B2
{2-[4-(5-Aminomethylpyridin-2-yloxy)phenyl]ethyl}benzylamine
Dissolve 6-[4-(2-benzylaminoethyl)phenoxy]nicotinonitrile 0.0650 g, 0.197 mmol) in THF (2.0 mL). Heat to 65° C. before adding borane-dimethyl sulfide (0.021 mL, 0.217 mmol). Continue heating for about 2 hours. Then add 5.0 N HCl (0.30 mL). Heat at reflux for 1 hour 20 minutes before cooling to room temperature. Add 1.0 N NaOH until the solution is basic. Extract with ether (3×25 mL). Concentrate the organic layer before purifying by flash chromatography, eluting with 10% (2.0 M NH3 in methanol), 10% methanol and 80% ethyl acetate. Load the product onto a 1 g SCX column with methanol. Wash with methanol and elute with 2.0 M NH3 in methanol. Run a second flash 40 column eluting with 10% (2.0 M NH3 in methanol), 5% methanol and 85% ethyl acetate. Load the product onto a 5 g SCX column with methanol. Wash the column with methanol (4×10 mL) and 25% (2.0 M NH3 in methanol) in methanol (1×10 mL). Then elute with 50% (2.0 M NH3 in methanol) in methanol to give the title compound (0.0141 g, 21.7%): MS ES+ 334.0 (M+H)+, base peak ES+ 227.0 (M−NHCH2C6H5)+; HPLC [YMC-Pack Pro C-18 (150×4.6 mm, S-5 microm), acetonitrile in water containing 0.01% concentrated HCl at 1.0 mL/min, 30-99% over 19 min], tR=4.8 min, 91.2% purity.

reactant | 6-[4-(2-benzylaminoethyl)phenoxy]nicotinonitrile | 0.197 mmol, 0.0650 g | C(C1=CC=CC=C1)NCCC1=CC=C(OC2=NC=C(C#N)C=C2)C=C1 | C21H19N3O
reactant | borane-dimethyl sulfide | 0.217 mmol, 0.021 mL | CSC.B
reactant | HCl | 5.0 N, 0.30 mL | Cl | ClH
reactant | NaOH | 1.0 N | [OH-].[Na+]
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
product | {2-[4-(5-Aminomethylpyridin-2-yloxy)phenyl]ethyl}benzylamine | 0.0141 g, 21.7% | NCC=1C=CC(=NC1)OC1=CC=C(C=C1)CCNCC1=CC=CC=C1 | C21H23N3O
